### PR TITLE
[Merged by Bors] - feat: PrimeSpectrum.irreducibleSpace_iff_nilradical_isPrime

### PR DESCRIPTION
**Pull request by bwangpj**
Also removes a `set_option backward.isDefEq.respectTransparency false in`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/Spectrum/Prime/Topology.lean [hunk 1]
```diff
@@ -272,6 +272,12 @@ lemma vanishingIdeal_isClosed_isIrreducible :
   rintro _ ⟨s, hs, rfl⟩
   exact ⟨closure s, ⟨isClosed_closure, hs.closure⟩, vanishingIdeal_closure s⟩
 
+set_option backward.isDefEq.respectTransparency false in
+lemma irreducibleSpace_iff_nilradical_isPrime :
```
Comment (erdOne) [inline Mathlib/RingTheory/Spectrum/Prime/Topology.lean]:
```suggestion
lemma irreducibleSpace_iff_isPrime_nilradical :
```

File: Mathlib/RingTheory/Spectrum/Prime/Topology.lean [hunk 2]
```diff
@@ -272,6 +272,12 @@ lemma vanishingIdeal_isClosed_isIrreducible :
   rintro _ ⟨s, hs, rfl⟩
   exact ⟨closure s, ⟨isClosed_closure, hs.closure⟩, vanishingIdeal_closure s⟩
 
+set_option backward.isDefEq.respectTransparency false in
+lemma irreducibleSpace_iff_isPrime_nilradical :
+    IrreducibleSpace (PrimeSpectrum R) ↔ (nilradical R).IsPrime := by
+  refine (irreducibleSpace_def _).trans (isIrreducible_iff_vanishingIdeal_isPrime.trans ?_)
+  simp
```
Comment (erdOne) [inline Mathlib/RingTheory/Spectrum/Prime/Topology.lean]:
```suggestion
  simp [irreducibleSpace_def, isIrreducible_iff_vanishingIdeal_isPrime]
```

File: Mathlib/RingTheory/Spectrum/Prime/Topology.lean
Comment (erdOne) [inline Mathlib/RingTheory/Spectrum/Prime/Topology.lean]:
```suggestion
  simpa [irreducibleSpace_iff_isPrime_nilradical] using Ideal.isPrime_bot
```

**Review by chrisflav — APPROVED** [review]
Thanks!
maintainer merge

**Review by ocfnash — APPROVED** [review]
Thanks!

bors merge
